US03931239
A stirred solution of 4,5-dimethyl-6-oxo-7-bromo-7-propyl-7,8-dihydro-6H-indeno[5,4-b]furan-2-carboxylic acid (0.8 g., 0.0022 mole) and anhydrous lithium bromide (0.49 g., 0.0056 mole) in dimethylformamide (10 ml.) is heated at 95° in an inert atomosphere for one hour then poured into water (100 ml.) affording 4,5-dimethyl-6-oxo-7-propylidene-7,8-dihydro-6H-indeno-[5,4-b]furan-2-carboxylic acid which melts at 301°C after recrystallization from ethanol.

reactant | 4,5-dimethyl-6-oxo-7-bromo-7-propyl-7,8-dihydro-6H-indeno[5,4-b]furan-2-carboxylic acid | 0.0022 mole, 0.8 g | CC1=C(C=2C(C(CC2C2=C1OC(=C2)C(=O)O)(CCC)Br)=O)C | C17H17BrO4
reactant | lithium bromide | 0.0056 mole, 0.49 g | [Br-].[Li+]
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4,5-dimethyl-6-oxo-7-propylidene-7,8-dihydro-6H-indeno-[5,4-b]furan-2-carboxylic acid | CC1=C(C=2C(C(CC2C2=C1OC(=C2)C(=O)O)=CCC)=O)C | C17H16O4
